US09315462B2
Step 2: Synthesis of methyl 4-(5-bromo-6-methoxyquinolin-2-yl)benzoate
To a solution of methyl 4-(6-methoxyquinolin-2-yl)benzoate (630 mg, 2.15 mmol) in DCM (9 mL) was added Br2 (0.3 mL, 6.45 mmol). The reaction mixture was stirred at room temperature overnight. Then the mixture was partitioned with brine and DCM. The precipitate was filtered and dried to give the product as a solid (800 mg, 100%). MS (ESI): m/z=373.0 [M+1]+.

reactant | methyl 4-(6-methoxyquinolin-2-yl)benzoate | 2.15 mmol, 630 mg | COC=1C=C2C=CC(=NC2=CC1)C1=CC=C(C(=O)OC)C=C1 | C18H15NO3
reactant | Br2 | 6.45 mmol, 0.3 mL | BrBr | Br2
solvent | DCM | 9 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(5-bromo-6-methoxyquinolin-2-yl)benzoate | 800 mg, 100% | BrC1=C2C=CC(=NC2=CC=C1OC)C1=CC=C(C(=O)OC)C=C1 | C18H14BrNO3
